US04411839
To a mixture of 5-cyano-1-(2,6-dimethylanilino)-2,4-pyrimidinedione (0.1 mol) and 80 ml of 5% sodium hydroxide solution, with stirring, is slowly added dimethyl sulfate (0.1 mol). The reaction mixture is stirred for about 2-4 hours and then filtered, washed with water and dried to yield 5-cyano-1-(2,6-dimethylanilino)-3-methyl-2,4-pyrimidinedione.

reactant | 5-cyano-1-(2,6-dimethylanilino)-2,4-pyrimidinedione | 0.1 mol | C(#N)C=1C(NC(N(C1)NC1=C(C=CC=C1C)C)=O)=O | C13H12N4O2
reactant | dimethyl sulfate | 0.1 mol | S(=O)(=O)(OC)OC | C2H6O4S
solvent | sodium hydroxide | 80 ml | [OH-].[Na+]
product | 5-cyano-1-(2,6-dimethylanilino)-3-methyl-2,4-pyrimidinedione | C(#N)C=1C(N(C(N(C1)NC1=C(C=CC=C1C)C)=O)C)=O | C14H14N4O2
